* Z:\home\tantos\tcomp\circuit_sims\bjt\line_switch_mos.asc
Q2 N007 N007 N010 0 2N3904
D1 0 N010 BZX84C6V2L
R1 VCC N007 4.7k
R2 VCC PE 0.47
V1 VCC 0 {VCC}
Q3 DB N007 N009 0 2N3904
R4 N009 0 4.7k
Q4 PC PB PE 0 TIP42C
Q5 N006 DB PB 0 2N3906
Q7 N002 N002 N001 0 2N3906
Q6 N002 N002 DB 0 2N3904
R7 VCC VT 145
R13 VT N001 145
RT VCC VT {300*exp(beta*(1/(TEMP+273.15)-1/(25+273.15)))}
Q1 0 0 N006 0 TIP42C
D2 PC PB BAT54SHY
R12 N008 LEFT {R_SET}
L4 RIGHT N008 {L_SET}
R15 N012 BL {Rb}
R14 N003 TL {Rb}
V5 V_LOGIC 0 3.3
V7 WR 0 PULSE(0 3.3 {TC/2+50n} 1n 1n {TON} {TC} 1000)
V8 RD 0 PULSE(0 3.3 50n 1n 1n {TON} {TC} 1000)
V3 EN 0 3.3
R6 N013 BR {Rb}
R8 N004 TR {Rb}
D7 N016 N014 BAT54
R17 0 N016 100
R18 N018 N014 220
R19 N014 V_LOGIC 220
Q15 N016 N014 V_LOGIC 0 2N3906
Q16 0 RD N018 0 2N3906
Q21 0 EN N018 0 2N3906
D14 N019 BL BAT54
R20 VCC BL 100
R21 N017 N019 110
R27 N019 0 110
Q25 V_LOGIC N016 N017 0 2N3904
Q26 BL N019 0 0 2N3904
D21 TR N015 BAT54
R30 0 TR 100
R31 N020 N015 2k
R32 N015 VCC 110
Q27 TR N015 VCC 0 2N3906
Q30 0 BL N020 0 2N3906
D22 N023 N021 BAT54
R33 0 N023 100
R34 N025 N021 220
R35 N021 V_LOGIC 220
Q31 N023 N021 V_LOGIC 0 2N3906
Q32 0 WR N025 0 2N3906
Q33 0 EN N025 0 2N3906
D23 N026 BR BAT54
R36 VCC BR 100
R37 N024 N026 110
R38 N026 0 110
Q34 V_LOGIC N023 N024 0 2N3904
Q35 BR N026 0 0 2N3904
D24 TL N022 BAT54
R39 0 TL 100
R40 N027 N022 2k
R41 N022 VCC 110
Q36 TL N022 VCC 0 2N3906
Q37 0 BR N027 0 2N3906
M1 N011 N012 0 0 RSR025N03
M2 N005 N003 PC PC RSL020P03
M3 RIGHT N013 0 0 RSR025N03
M4 RIGHT N004 PC PC RSL020P03
C1 VCC PE 10n
D3 N005 LEFT 1N914
D4 LEFT N011 1N914
.model D D
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\tantos\AppData\Local\LTspice\lib\cmp\standard.mos
.tran {TC*10} uic
;.step temp 0 50 2
* .op
;.step param VCC 18 25 1
.lib ../../spice_models/tip42c.bjt
.param VCC=20
;.step param R_SET 100 350 5
.param beta=3468
;.step param beta 3100 4000 100
* {300*exp(beta*(1/(TEMP+273.15)-1/(25+273.15)))}
;.step param R_SET 15 30 2
.model LDSW SW(Ron=1m Roff=1Meg Vt=.5 Vh=-.4)
.temp 25
;.step param L_SET list 2u 3u 4u
.lib ../../spice_models/tip41c.bjt
.param L_SET=2u
.param R_SET=25
.param Rb=0.1
.param TON=200n
.param TC=1000n
;.step param Rb 100 5000 100
.backanno
.end
