*********************************************************************
*  (C)  Copyright  TOSHIBA CORPORATION  2015
*  Date                 : 30/03/2015
*  File name            : SSM6L40TU_P.lib
*  Part Number          : SSM6L40TU_P
*  Parameter ver.       : Ver.1
*  Simulator            : PSPICE
*  Model call name      : PMOS_SSM6L40TU_P
*  TNOM                 : 25 degree
*  Pin Assign           : 1=Drain 2=Gate 3=Source
*********************************************************************
.SUBCKT PMOS_SSM6L40TU_P 1 2 3
M0 1 22 3 3
+ smsmosfet
+ L = 5E-006
+ W = 0.05
+ AD = 5e-10
+ AS = 5e-10
+ PD = 0.1
+ PS = 0.1
D0 1 3 DDS1
D1 1 3 DDS2
D2 10 2 DGS1
D3 10 3 DGS2
R1 10 3 1E+009
R2 10 2 1E+009
RG 2 22 31
.MODEL smsmosfet PMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 1.5E-008
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = -1.5818
+ VOFF = -0.08
+ NFACTOR = 3.7855
+ U0 = 1750.9863
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 2.0736e-09
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 101589.6203
+ A0 = 0.84128
+ AGS = 0.00067639
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.020544
+ RDSW = 4042.9795
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.08
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 6.5047e-05
+ PDIBLC1 = 0.39
+ PDIBLC2 = 0.019508
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 6.5209e-09
+ CGDO = 6.0839e-09
+ CGBO = 0
+ CGDL = 4.1642e-08
+ CGSL = 5.6086e-08
+ CKAPPA = 0.44555
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 0.054314
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 0.67608
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.85065
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -0.54843
+ KT1 = -0.63453
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 3.3E+004
+ PRT = 11000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 0.023951
.MODEL DDS1 D
+ TNOM = 25
+ IS = 1.3873e-12
+ RS = 0.12024
+ N = 1.1384
+ CJO = 8.7141e-12
+ VJ = 0.45877
+ M = 0.12409
+ XTI = 3
+ BV = 30
+ IBV = 0.001
.MODEL DDS2 D
+ TNOM = 25
+ IS = 1.3873e-12
+ RS = 0.12024
+ N = 1.1384
+ CJO = 5.6899e-12
+ VJ = 0.41083
+ M = 0.19171
+ XTI = 3
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1E-015
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1E-015
.ENDS
